US07176205B2
b) (6′-Chloro-2-methyl-[3,4′]bipyridinyl-3′-yl)-methyl-carbamic acid tert-butyl ester
To a solution of 0.16 g (0.50 mmol) (6′-chloro-2-methyl-[3,4′]bipyridinyl-3′-yl)-carbamic acid tert-butyl ester in 5 ml DMF were added 25 mg (0.50 mmol) sodium hydride (50% suspension in mineral oil) under nitrogen at room temperature. After stirring for 30 min 0.034 ml (0.52 mmol) methyl iodide were added. The reaction mixture was stirred for 1 h. Quenching with water was followed by extraction with three portions of dichloromethane. The combined organic layers were washed with water. The combined aqueous layers were extracted with dichloromethane. The combined organic layers were dried with sodium sulfate and concentrated. Residual DMF was removed by Kugelrohr distillation. Flash chromatography gave 0.14 g (84%) of the title compound.

reactant | (6′-chloro-2-methyl-[3,4′]bipyridinyl-3′-yl)-carbamic acid tert-butyl ester | 0.50 mmol, 0.16 g | C(C)(C)(C)OC(NC=1C=NC(=CC1C=1C(=NC=CC1)C)Cl)=O | C16H18ClN3O2
reactant | sodium hydride | 0.50 mmol, 25 mg | [H-].[Na+]
reactant | methyl iodide | 0.52 mmol, 0.034 ml | CI | CH3I
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (6′-Chloro-2-methyl-[3,4′]bipyridinyl-3′-yl)-methyl-carbamic acid tert-butyl ester | 0.14 g, 84% | C(C)(C)(C)OC(N(C)C=1C=NC(=CC1C=1C(=NC=CC1)C)Cl)=O | C17H20ClN3O2
